US06552067B2
To a solution of 4-fluoro-3-methylphenylmagnesium bromide (0.5M in Et2O, 15.5 mL, 7.75 mmol) in THF (10 mL) at −30° C. was added Cul (196 mg, 1.03 mmol) and the reaction mixture was stirred for 10 minutes. The reaction mixture was warmed to −15° C. and oxiranylmethyl-phosphonic acid diethyl ester (1 g, 5.2 mmol) in THF (10 mL) was added. The reaction mixture was stirred at 0° C. for 2 h. Saturated aqueous ammonium chloride was added and the product was extracted into EtOAc. The organic solution was dried (MgSO4), filtered and concentrated. Purification by medium pressure chromatography (20% EtOAc in hexanes to 70% EtOAc in hexanes) provided [3-(4-fluoro-3-methyl-phenyl)-2-hydroxy-propyl]-phosphonic acid diethyl ester (1.37 g).

reactant | 4-fluoro-3-methylphenylmagnesium bromide | 7.75 mmol, 0.5M, 15.5 mL | FC1=C(C=C(C=C1)[Mg]Br)C
reactant | oxiranylmethyl-phosphonic acid diethyl ester | 5.2 mmol, 1 g | C(C)OP(OCC)(=O)CC1OC1 | C7H15O4P
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [3-(4-fluoro-3-methyl-phenyl)-2-hydroxy-propyl]-phosphonic acid diethyl ester | 1.37 g | C(C)OP(OCC)(=O)CC(CC1=CC(=C(C=C1)F)C)O | C14H22FO4P
